US06417180B1
6-chlorouracil (1 mmol) and meta-aminobenzyl alcohol (2.0 mmol) were dissolved in 10 ml 2-methoxyethanol to form a reaction mixture. The mixture was then stirred at reflux for 10 hours to form 6-(meta-hydroxymethyl anilino)uracil with a yield of 86%. The hydroxy group was displaced by a bromo group by reacting the hydroxymethyl anilino-uracil (0.5 mmol) with 30% HBr in acetic acid (10 ml), thus forming 6-(meta-bromomethyl anilino)uracil with a yield of 90%. The bromo group was further replaced by a thiocyanate group by reacting 0.4 mmol 6-(meta-bromomethyl anilino)uracil with 2 mmol KSCN to form 6-(meta-mercaptocyanomethyl anilino)uracil (MMCMAU) with a yield of 80%. mMCMAU was then hydrolyzed to 6-(meta-thiomethyl anilino)uracil in 5 mL of 2N NaOH. The final product, 6-(meta-disulfidemethyl anilino)uracil, was formed quantitatively by reacting 6-(meta-thiomethyl anilino)uracil with methyl methane thiosulfonate in 2 molar excess.

reactant | hydroxymethyl anilino-uracil | 0.5 mmol | OCC=1C(N(C(NC1)=O)NC1=CC=CC=C1)=O | C11H11N3O3
reactant | HBr | Br | BrH
reactant | 6-(meta-bromomethyl anilino)uracil | BrCC=1C=C(NC2=CC(NC(N2)=O)=O)C=CC1 | C11H10BrN3O2
reactant | 6-(meta-bromomethyl anilino)uracil | 0.4 mmol | BrCC=1C=C(NC2=CC(NC(N2)=O)=O)C=CC1 | C11H10BrN3O2
reactant | KSCN | 2 mmol | C(#N)[S-].[K+]
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 6-(meta-mercaptocyanomethyl anilino)uracil | yield of 80% | SC=1C=C(N(C2=CC(NC(N2)=O)=O)CC#N)C=CC1 | C12H10N4O2S
